US09376422B2
Step 4: Synthesis of 3-bromo-6-chloro-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxylic acid
To a stirred solution of methyl 3-bromo-6-chloro-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxylate (102 mg, 0.28 mmol) in THF (2 ml) was added 2M aqueous NaOH (0.70 ml, 1.40 mmol) and the reaction mixture was left to stir at room temperature for 18 h after which time the THF was evaporated in vacuo. The aqueous phase was then treated with an aqueous 10% citric acid solution to 5-6 and then extracted with EtOAc (3×50 ml) followed by a solution of 1:1 IPA/CHCl3 (2×50 ml), the combined organic phases were then washed with brine (50 ml) dried with Na2SO4 and evaporated to give the title compound as a white solid (72 mg, 73%). LC-MS 100%, 1.49 min (3.5 minute LC-MS method), m/z=349.0/351.0/352.9, 1H NMR (500 MHz, Methanol-d4) δ 7.07 (s, 1H), 4.02 (dd, J=11.3, 4.3 Hz, 2H), 3.96-3.87 (m, 1H), 3.46 (t, J=11.0 Hz, 2H), 2.85 (s, 3H), 1.96 (dd, J=12.3, 4.3 Hz, 2H), 1.77 (s, 2H).

reactant | methyl 3-bromo-6-chloro-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxylate | 0.28 mmol, 102 mg | BrC=1C(=NC(=CC1N(C1CCOCC1)C)Cl)C(=O)OC | C13H16BrClN2O3
reactant | NaOH | 1.40 mmol, 2M, 0.70 ml | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-bromo-6-chloro-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxylic acid | 72 mg, 73% | BrC=1C(=NC(=CC1N(C1CCOCC1)C)Cl)C(=O)O | C12H14BrClN2O3
